US07425568B2
2-(3-Nitrophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 6-hydroxy-2-(3-nitrophenyl)chroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 8.89 (br s, 1H), 8.29 (s, 1H), 8.20 (dd, 1H, J 8.2, 2.3Hz), 7.93(d, 1H, J 7.9Hz), 7.71 (t, 1H, J 15.9, 7.9Hz), 6.89 (d, 1H, J 2.8 Hz), 6.66 (d, 1H, J 8.7 Hz), 6.57 (dd, 1H, J 8.7, 2.9 Hz), 5.47 (br s, 1H), 5.33 (d, 1H, J 10.7 Hz), 4.88-4.92 (m, 1H), 2.33-2.39 (m, 1H), 1.83-1.92 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 6-hydroxy-2-(3-nitrophenyl)chroman-4-one | OC=1C=C2C(CC(OC2=CC1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H11NO5
product | 2-(3-Nitrophenyl)chroman-4,6-diol | [N+](=O)([O-])C=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13NO5
